US08314240B2
1.00 g of tert-butyl (6-hydroxy-2,3-dihydro-1H-inden-5-yl)carbamate was dissolved in 10.0 mL of DMF, and 1.08 g of ethyl 5-(bromomethyl)pyrazine-2-carboxylate and 721 mg of potassium carbonate were added thereto, followed by stirring at 60° C. for 1 hour. The reaction liquid was poured into a 5% w/v aqueous citric acid solution, followed by extraction with ethyl acetate. The organic layer was washed with a 5% w/v aqueous citric acid solution, water, and saturated brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1 to 7:3) to obtain 690 mg of ethyl 5-[({6-[(tert-butoxycarbonyl)amino]-2,3-dihydro-1H-inden-5-yl}oxy)methyl]pyrazine-2-carboxylate.

reactant | tert-butyl (6-hydroxy-2,3-dihydro-1H-inden-5-yl)carbamate | 1.00 g | OC1=C(C=C2CCCC2=C1)NC(OC(C)(C)C)=O | C14H19NO3
reactant | ethyl 5-(bromomethyl)pyrazine-2-carboxylate | 1.08 g | BrCC=1N=CC(=NC1)C(=O)OCC | C8H9BrN2O2
reactant | potassium carbonate | 721 mg | C([O-])([O-])=O.[K+].[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | 10.0 mL | CN(C)C=O | C3H7NO
product | ethyl 5-[({6-[(tert-butoxycarbonyl)amino]-2,3-dihydro-1H-inden-5-yl}oxy)methyl]pyrazine-2-carboxylate | 690 mg | C(C)(C)(C)OC(=O)NC1=C(C=C2CCCC2=C1)OCC=1N=CC(=NC1)C(=O)OCC | C22H27N3O5
